US08466282B2
3-fluoro-N-(4-methoxybutyl)-2-nitroaniline
To a solution of 1,3-difluoro-2-nitrobenzene (3.00 g) and diisopropylethylamine (7 μl) in acetonitrile (30 ml) was added a solution of 4-methoxybutan-1-amine hydrochloride (2.51 g) in acetonitrile (10 ml), and the mixture was stirred at room temperature for 90 hr. The reaction mixture was concentrated under reduced pressure, and the residue was subjected to silica gel column chromatography, and a fraction eluted with ethyl acetate-hexane (2:98-25:75) was concentrated under reduced pressure to give the object product (2.90 g).

reactant | 1,3-difluoro-2-nitrobenzene | 3.00 g | FC1=C(C(=CC=C1)F)[N+](=O)[O-] | C6H3F2NO2
reactant | diisopropylethylamine | 7 μl | C(C)(C)N(CC)C(C)C | C8H19N
reactant | 4-methoxybutan-1-amine hydrochloride | 2.51 g | Cl.COCCCCN
solvent | acetonitrile | 30 ml | C(C)#N | C2H3N
solvent | acetonitrile | 10 ml | C(C)#N | C2H3N
product | 3-fluoro-N-(4-methoxybutyl)-2-nitroaniline | 2.90 g | FC=1C(=C(NCCCCOC)C=CC1)[N+](=O)[O-] | C11H15FN2O3
